US05359098
6-[6(4-Hydroxypiperidinyl)hexoxy]-2-phenyl-4H-1-benzopyran-4-one hydrochloride
The compound was prepared by a method similar to Example 1 from 6-hydroxyflavone, 1-bromo-6-chlorohexane and 4-hydroxypiperidine: mp 219°-221° C.

reactant | 6-hydroxyflavone | OC=1C=C2C(C=C(OC2=CC1)C1=CC=CC=C1)=O | C15H10O3
reactant | 1-bromo-6-chlorohexane | BrCCCCCCCl | C6H12BrCl
reactant | 4-hydroxypiperidine | OC1CCNCC1 | C5H11NO
product | 6-[6(4-Hydroxypiperidinyl)hexoxy]-2-phenyl-4H-1-benzopyran-4-one hydrochloride | Cl.OC1CCN(CC1)CCCCCCOC=1C=CC2=C(C(C=C(O2)C2=CC=CC=C2)=O)C1 | InChI=1S/C26H31NO4.ClH/c28-21-12-15-27(16-13-21)14-6-1-2-7-17-30-22-10-11-25-23(18-22)24(29)19-26(31-25)20-8-4-3-5-9-20;/h3-5,8-11,18-19,21,28H,1-2,6-7,12-17H2;1H
